US09278983B2
A mixture of N2-methyl-5-trifluoromethylpyridin-2,3-diamine (0.96 g), 2-propylsulfanylbenzoic acid (1.08 g), WSC (0.78 g), and pyridine (10 ml) was stirred with heating at 120° C. for 1.5 hours. To the reaction mixture, HOBt (0.74 g) was added, and stirred with heating for 1.5 hours. WSC (0.38 g) was added thereto, and stirred with heating for further 2 hours. Into the reaction mixture cooled to room temperature, water was poured, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.23 g of 3-methyl-2-(2-propylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 7).

reactant | N2-methyl-5-trifluoromethylpyridin-2,3-diamine | 0.96 g | CNC1=NC=C(C=C1N)C(F)(F)F | C7H8F3N3
reactant | 2-propylsulfanylbenzoic acid | 1.08 g | C(CC)SC1=C(C(=O)O)C=CC=C1 | C10H12O2S
reactant | WSC | 0.78 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.74 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 0.38 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-methyl-2-(2-propylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.23 g | CN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=CC=C2)SCCC | C17H16F3N3S
